US07598423B2
Synthesis of 5-chloromethyl-3-(3-iodo-benzyl)-[1,2,4]oxadiazole
Add a solution of chloroacetic anhydride (1.5 g, 9 mmol) in toluene (20 mL) to N-hydroxy-2-(3-iodo-phenyl)-acetamidine (2.5 g, 9 mmol) in anhydrous toluene (20 mL). Fit the flask with a Dean-Stark trap and heat to reflux for 7 h. Concentrate the mixture and purify the residue by flash chromatography using 15% tetrahydrofuran/hexane to give the title compound (1.45 g, 48%). 1H NMR (CDCl3) δ 7.65 (s, 1H), 7.59 (d, 1H), 7.26 (d, 1H), 7.04 (dd, 1H), 4.62 (s, 2H), 4.01 (s, 2H).

reactant | chloroacetic anhydride | 9 mmol, 1.5 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | N-hydroxy-2-(3-iodo-phenyl)-acetamidine | 9 mmol, 2.5 g | ONC(CC1=CC(=CC=C1)I)=N | C8H9IN2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloromethyl-3-(3-iodo-benzyl)-[1,2,4]oxadiazole | 1.45 g, 48% | ClCC1=NC(=NO1)CC1=CC(=CC=C1)I | C10H8ClIN2O
